US08685975B2
1-(3-(4-Bromo-3,5-dimethoxyphenyl)-1H-pyrazol-1-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone was synthesized from 3-(4-bromo-3,5-dimethoxyphenyl)-1H-pyrazole (prepared according to Journal of Org. Chem., 2003, 68, 5381) and 2-methoxy-2-(4-morpholinophenyl)acetic acid using the analogous procedure as for Example 51 to give 1-(3-(4-bromo-3,5-dimethoxyphenyl)-1H-pyrazol-1-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone as a solid (0.065 g, 22% yield). MS: m/z 516.1 [M+H]+.

reactant | 3-(4-bromo-3,5-dimethoxyphenyl)-1H-pyrazole | BrC1=C(C=C(C=C1OC)C1=NNC=C1)OC | C11H11BrN2O2
reactant | 2-methoxy-2-(4-morpholinophenyl)acetic acid | COC(C(=O)O)C1=CC=C(C=C1)N1CCOCC1 | C13H17NO4
product | 1-(3-(4-bromo-3,5-dimethoxyphenyl)-1H-pyrazol-1-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone | 0.065 g, 22% yield | BrC1=C(C=C(C=C1OC)C1=NN(C=C1)C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)OC | C24H26BrN3O5
